US04983211
3-Hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)cyclohex-2-en-1-one
A solution of 33.1 g (0.0753 mol) of 3-hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)-phenyl)-4-(carboethoxy)cyclohex-2-en-1-one in 300 mL (0.30 mol) of 1N sodium hydroxide was heated at 60° C. for 6 hours and cooled to room temperature. The solution was filtered and the filtrate acidified with 30 mL of concentrated HCl and the desired product crystallized out of the solution. The crude product was recovered by filtration and the filtrate thoroughly washed with water and dried in vacuo at 100° C. leaving 23.9 g (86.6 percent of theoretical) of the product which melted at 162°-167° C. The product was further purified by heating it in refluxing methylene chloride, cooling anf filtering. The product was recovered in a yield of 19.6 g (71.0 percent of theoretical) melted at 173°-176° C., with decomposition; Rf -0.48 (silica gel, 75:24:1 EtOAc:hexane:HOAc), 1H NMR (CDCl3 +D6 --DMSO): δ 2.35-2.80 (m, 4H, --CH2 --), 3.40 (m, 1H, --CH--), 5.41 (s, 1H, vinyl), 7.1-8.37 (m, 6H, ArH), 9.5-11 (b, 1H, --OH).

reactant | 3-hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)-phenyl)-4-(carboethoxy)cyclohex-2-en-1-one | 0.0753 mol, 33.1 g | OC1=CC(CC(C1C(=O)OCC)C1=CC=C(C=C1)OC1=NC=C(C=C1F)C(F)(F)F)=O | C21H17F4NO5
reactant | sodium hydroxide | 0.30 mol, 1N, 300 mL | [OH-].[Na+]
product | 3-Hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)cyclohex-2-en-1-one | OC1=CC(CC(C1)C1=CC=C(C=C1)OC1=NC=C(C=C1F)C(F)(F)F)=O | C18H13F4NO3
